### ISSUE TITLE
Infer function property in one variable from property about multiple variables

### ISSUE THREAD

**Issue by lecopivo** [lecopivo/SciLean#8]
If we have function differentiable in two variables then the tactic `fprop` can't infer that the function is differentiable in both variables separately. 

This should be working
```
import SciLean.Core

open SciLean

variable 
  {K} [IsROrC K]
  {X Y Z W} [Vec K X] [Vec K Y] [Vec K Z] [Vec K W]


section TwoArguments
variable   (f : X → Y → Z)   (hf : IsDifferentiable K fun xy : X×Y => f xy.1 xy.2)

example : ∀ x, IsDifferentiable K fun y => f x y := by fprop
example : ∀ y, IsDifferentiable K fun x => f x y := by fprop
example : IsDifferentiable K f := by fprop

end TwoArguments


section ThreeArguments
variable (f : X → Y → Z → W) (hf : IsDifferentiable K fun xyz : X×Y×Z => f xyz.1 xyz.2.1 xyz.2.2)

example : ∀ y z, IsDifferentiable K fun x => f x y z := by fprop
example : ∀ x z, IsDifferentiable K fun y => f x y z := by fprop
example : ∀ x y, IsDifferentiable K fun z => f x y z := by fprop
example : ∀ x, IsDifferentiable K fun yz : Y×Z => f x yz.1 yz.2 := by fprop
example : ∀ x, IsDifferentiable K fun zy : Z×Y => f x zy.2 zy.1 := by fprop
example : ∀ y, IsDifferentiable K fun xz : X×Z => f xz.1 y xz.2 := by fprop
example : ∀ y, IsDifferentiable K fun zx : Z×X => f zx.2 y zx.1 := by fprop
example : ∀ z, IsDifferentiable K fun xy : X×Y => f xy.1 xy.2 z := by fprop
example : ∀ z, IsDifferentiable K fun yx : Y×X => f yx.2 yx.1 z := by fprop
example : IsDifferentiable K f := by fprop
example : ∀ x, IsDifferentiable K (f x) := by fprop
example : ∀ x y, IsDifferentiable K (f x y) := by fprop

end ThreeArguments
```
